US05110815
5,6,7,8-Tetrahydro-N,5-dimethyl-2-(phenylmethoxy)-5-quinolinamine
5,6,7,8-Tetrahydro-N,5-dimethyl-N,2-bis(phenylmethoxy)-5-quinolinamine (12.3 g) in tetrahydrofuran (160 ml) at 0° C. was treated dropwise with borane-tetrahydrofuran complex (1M in tetrahydrofuran, 63.4 ml). The solution was heated under reflux for 3 hrs, cooled to 0° C., and water (30 ml) was added. The reaction mixture was concentrated in vacuo, 20% potassium hydroxide solution (60 ml) was added, and the mixture was heated at reflux for 2 hrs. The mixture was cooled, acidified with conc hydrochloric acid, and washed with diethyl ether. The aqueous phase was basified with 20% potassium hydroxide solution and extracted with dichloromethane. The combined organic layers were washed with brine, dried over potassium carbonate, filtered, and the filtrate was concentrated to afford 6.3 g (92%) of product.

reactant | 5,6,7,8-Tetrahydro-N,5-dimethyl-N,2-bis(phenylmethoxy)-5-quinolinamine | 12.3 g | CN(C1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C)OCC1=CC=CC=C1 | C25H28N2O2
reactant | borane tetrahydrofuran | 1M, 63.4 ml | B.O1CCCC1
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-Tetrahydro-N,5-dimethyl-2-(phenylmethoxy)-5-quinolinamine | 6.3 g, 92% | CNC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C | C18H22N2O
